US05830915
Methylphenyl-phosphinic chloride (1.05 g, 6 mmol) is dissolved in dichloromethane (50 mL) and cooled to 0° C. To this is added a solution of N-hexyl-D-alanine methyl ester (1 g, 5.34 mmol) and triethylamine (2.1 mL, 15 mmol) in dichloromethane (10 mL). A catalytic amount of 4-dimethylaminopyridine is added and reaction is stirred for 16 hours, washed with water and brine, dried over sodium sulfate, and concentrated. The crude product is purified by silica gel flash chromatography (100% ethyl acetate) to give N-((R)-methylphenylphosphinyl)-N-hexyl-D-alanine methyl ester as an oil.

reactant | Methylphenyl-phosphinic chloride | 6 mmol, 1.05 g | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | N-hexyl-D-alanine methyl ester | 5.34 mmol, 1 g | COC([C@H](NCCCCCC)C)=O | C10H21NO2
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-((R)-methylphenylphosphinyl)-N-hexyl-D-alanine methyl ester | COC([C@H](N(CCCCCC)[P@](=O)(C1=CC=CC=C1)C)C)=O | C17H28NO3P
